US08278442B2
Preparation 18: 6-(1-Methylisoquinolin-4-yloxy)nicotinonitrile
To a solution of 6-(1-chloroisoquinolin-4-yloxy)nicotinonitrile (Preparation 17) (300 mg, 1.1 mmol) in DMF (8 mL) under argon was added trimethylboroxine (148 μL, 1.1 mmol) followed by K2CO3 (442 mg, 3.2 mmol) and palladium tetrakistriphenylphosphine (123 mg, 0.1 mmol). The mixture was purged with argon for 5 min and then heated to 80° C. for 16 h. Solvent was removed in vacuo. The residue was partitioned between EtOAc (100 mL) and water (40 mL), the organic phase was washed with water (40 mL), NaHCO3 (40 mL), brine (30 mL) and dried (MgSO4). Solvent was removed in vacuo and the residue purified by column chromatography (2% MeOH: DCM) to give the title compound: RT=2.40 min; m/z (ES+)=262.4 [M+H]+.

reactant | 6-(1-chloroisoquinolin-4-yloxy)nicotinonitrile | 1.1 mmol, 300 mg | ClC1=NC=C(C2=CC=CC=C12)OC1=NC=C(C#N)C=C1 | C15H8ClN3O
reactant | trimethylboroxine | 1.1 mmol, 148 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 3.2 mmol, 442 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 6-(1-Methylisoquinolin-4-yloxy)nicotinonitrile | CC1=NC=C(C2=CC=CC=C12)OC1=NC=C(C#N)C=C1 | C16H11N3O
